US04335098
A mixture of 5.0 g (0.0156 mole) of (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoic acid and 200 ml of anhydrous ether is stirred at room temperature. The above mixture is saturated with ammonia gas and allowed to stand at room temperature overnight. The solid precipitate is separated by filtration and washed with ether to give ammonium (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate.

reactant | (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoic acid | 0.0156 mole, 5.0 g | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)O | C19H28O4
reactant | ammonia | N | H3N
solvent | ether | 200 ml | CCOCC | C4H10O
product | ammonium (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)[O-].[NH4+] | InChI=1S/C19H28O4.H3N/c1-2-3-4-5-6-7-8-9-10-11-17(20)18-14-12-16(23-18)13-15-19(21)22;/h12-15H,2-11H2,1H3,(H,21,22);1H3/b15-13+;
